US08530493B2
To a solution of (+/−)-2-amino-3-(5-methoxy-1H-indol-3-yl)-2-methyl-propionic acid methyl ester (5.178 g, 19.5 mmol) and 3-hydroxybenzaldehyde (2.85 g, 23.4 mmol, 1.2 equiv.) in dry dichloromethane (80 ml) trifluoroacetic acid (1.5 ml, 19.5 mol, 1 equiv.) is added and the mixture is stirred under argon at room temperature. When TLC indicates the disappearance of (+/−)-2-amino-3-(5-methoxy-1H-indol-3-yl)-2-methyl-propionic acid methyl ester (1 day), a little methanol is added to dissolve the product precipitated during the reaction. The mixture is then diluted with dichloromethane (750 ml) and is washed with 2 M aqueous HCl, aqueous NaHCO3 and water, is dried and concentrated. Column chromatography (dichloromethane-ethyl acetate 9:17:1) of the residue gives 5.22 g (73%) of (1RS,3SR)-1-(3-hydroxy-phenyl)-6-methoxy-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester (m.p. 183-184° C. from ethyl acetate-light petroleum) and 1.07 g (15%) of (1RS,3RS)-1-(3-hydroxy-phenyl)-6-methoxy-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester (m.p. 175-177° C. from ethyl acetate-light petroleum).

reactant | (+/−)-2-amino-3-(5-methoxy-1H-indol-3-yl)-2-methyl-propionic acid methyl ester | 19.5 mmol, 5.178 g | COC(C(CC1=CNC2=CC=C(C=C12)OC)(C)N)=O | C14H18N2O3
reactant | 3-hydroxybenzaldehyde | 23.4 mmol, 2.85 g, 1.2 equiv. | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | dichloromethane | 19.5 mol, 80 ml, 1 equiv. | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | (1RS,3RS)-1-(3-hydroxy-phenyl)-6-methoxy-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester | 1.07 g, 15% | COC(=O)C1(NC(C=2NC3=CC=C(C=C3C2C1)OC)C1=CC(=CC=C1)O)C | C21H22N2O4
